US06790854B2
(a) 1-Cyclopropyl-1-(4-diethylcarbamoylphenyl)-1-(3-methoxyphenyl)Methanol
A solution of cyclopropyl bromide (0.31 ml) dissolved in tetrahydrofuran (1.5 ml) was added with magnesium (46.9 mg) and stirred at 60° C. for 1 hour to prepare a Grignard reagent. The Grignard reagent was added with a solution of 3-(4-diethylcarbamoylbenzoyl)anisole (150 mg) synthesized in accordance with the method described in WO97/10230, which was dissolved in tetrahydrofuran (1.5 ml), and then stirred at 60° C. for 2 hours. The reaction mixture was added with saturated aqueous ammonium chloride (4 ml) with ice cooling to terminate the reaction and then extracted twice with dichloromethane (4 ml). The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: hexane:ethyl acetate=2:1→1:1) to obtain 90.9 mg of the title compound. Yield: 53%.

reactant | cyclopropyl bromide | 0.31 ml | C1(CC1)Br | C3H5Br
reactant | magnesium | 46.9 mg | [Mg] | Mg
reactant | 3-(4-diethylcarbamoylbenzoyl)anisole | 150 mg | C(C)N(C(=O)C1=CC=C(C(=O)C=2C=C(C=CC2)OC)C=C1)CC | C19H21NO3
reactant | ammonium chloride | 4 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
product | 1-Cyclopropyl-1-(4-diethylcarbamoylphenyl)-1-(3-methoxyphenyl)Methanol | 90.9 mg, Yield: 53% | C1(CC1)C(O)(C1=CC(=CC=C1)OC)C1=CC=C(C=C1)C(N(CC)CC)=O | C22H27NO3
